US07115645B2
6-[[5-[[(4-Chlorophenyl)sulfonyl]amino]-1-(4-methoxyphenyl)-2-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
6-[(5-Amino-1-(4-methoxyphenyl)-2-phenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid methyl ester was reacted with 4-chlorobenzenesulfonic acid chloride according to general operating instructions 13.

reactant | 6-[(5-Amino-1-(4-methoxyphenyl)-2-phenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=C(C=C2)OC)C1)N)=O | C27H29N3O4
reactant | 4-chlorobenzenesulfonic acid chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 6-[[5-[[(4-Chlorophenyl)sulfonyl]amino]-1-(4-methoxyphenyl)-2-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=C(C=C2)OC)C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C33H32ClN3O6S
